US04104040
One hundred and twenty-five ml (1.64 mole) of isopropanol was cooled to -10° C with a freezing mixture of dry ice-methanol, and 30 ml (0.42 mole) of thionyl chloride was added dropwise thereto while stirring. Thereafter, 25 g (0.21 mole) of l-valine was added little by little while maintaining this temperature. The reaction mixture was first raised to room temperature gradually and then finally it was reacted at 100° C for 40 hours while stirring. After completion of the reaction, unreacted thionyl chloride and isopropanol were evaporated in vacuo. The residue obtained was dissolved in 10 to 20 ml of water. The solution was covered with 400 ml of ether and an aqueous ammonia was added thereto until the phenolphthalein indicator turned red. After extracting the solution with ether three to four times, the ether extract was dried over anhydrous sodium sulfate and distilled under reduced pressure to obtain a colorless and clear l-valine isopropyl ester (B.P. 40° - 41° C/3 - 4 mmHg).

reactant | dry ice methanol | C(=O)=O.CO
reactant | thionyl chloride | 0.42 mole, 30 ml | S(=O)(Cl)Cl | Cl2OS
reactant | l-valine | 0.21 mole, 25 g | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | ammonia | N | H3N
reactant | phenolphthalein | C=1C=CC2=C(C1)C(=O)OC2(C=3C=CC(=CC3)O)C=4C=CC(=CC4)O | C20H14O4
solvent | water | 10 to 20 ml | O | H2O
solvent | ether | 400 ml | CCOCC | C4H10O
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | isopropanol | 1.64 mole, One hundred and twenty-five ml | C(C)(C)O | C3H8O
product | l-valine isopropyl ester | C(C)(C)OC([C@@H](N)C(C)C)=O | C8H17NO2
